US07368573B2
c) Preparation Intermediate of (S)-{[(4-Fluorobenzyl)methylcarbamoyl]phenylmethyl}carbamic acid tert-butyl ester
A solution of N-Boc-L-phenylglycine (H, 17.2 g, 68.5 mmol) and (4-fluorobenzyl)methylamine (10.47 g, 75.3 mmol) in CH2Cl2 (550 mL) was cooled to 0° C. Disopropylethylamine (35.8 mL, 205 mmol) and PyBroP (38.3 g, 82.1 mmol) were then added sequentially. The cooling bath was removed and the reaction mixture was stirred at room temperature overnight. The solvent was evaporated and the title compound (24.5 g, 96%) was isolated by chromatography on silica gel eluting with a gradient of 40% to 60% ethyl acetate in hexane. 1H NMR (selected signals, CDCl3): □6.02 (d, 0.3H), 5.56 (d, 0.7H), 2.83 (s, 0.9H), 2.78 (s, 2.1H), 1.40 (s, 6.3 H, 1.39 (s, 2.7H).

reactant | N-Boc-L-phenylglycine | 68.5 mmol, 17.2 g | CC(C)(C)OC(=O)N[C@H](C1=CC=CC=C1)C(=O)O | C13H17NO4
reactant | (4-fluorobenzyl)methylamine | 75.3 mmol, 10.47 g | FC1=CC=C(CCN)C=C1 | C8H10FN
reactant | PyBroP | 82.1 mmol, 38.3 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 550 mL | C(Cl)Cl | CH2Cl2
product | (S)-{[(4-Fluorobenzyl)methylcarbamoyl]phenylmethyl}carbamic acid tert-butyl ester | 24.5 g, 96% | C(C)(C)(C)OC(N[C@@H](C1=CC=CC=C1)C(NCCC1=CC=C(C=C1)F)=O)=O | C21H25FN2O3
